US06340759B1
According to the method of Example 10-1, N-methyl-2-methylbenzamide (5.97 g) and 3,4-ethylenedioxybenzonitrile (6.41 g) were reacted, to give 3-(3,4-ethylenedioxyphenyl)isoquinolin-1-one (3.58 g).

reactant | N-methyl-2-methylbenzamide | 5.97 g | CNC(C1=C(C=CC=C1)C)=O | C9H11NO
reactant | 3,4-ethylenedioxybenzonitrile | 6.41 g | C1OC=2C=C(C#N)C=CC2OC1 | C9H7NO2
product | 3-(3,4-ethylenedioxyphenyl)isoquinolin-1-one | 3.58 g | C1OC=2C=C(C=CC2OC1)C=1NC(C2=CC=CC=C2C1)=O | C17H13NO3
